US07625902B2
In analogy to example 1, step 3, (S)-1-(2-chloro-benzenesulfonyl)-aziridine-2-carboxylic acid methyl ester was reacted with 2-chlorophenylisocyanate and sodium iodide to give (S)-1-(2-chloro-benzenesulfonyl)-3-(2-chloro-phenyl)-2-oxo-imidazolidine-4-carboxylic acid methyl ester as a colorless foam.

reactant | (S)-1-(2-chloro-benzenesulfonyl)-aziridine-2-carboxylic acid methyl ester | COC(=O)C1[N@](C1)S(=O)(=O)C1=C(C=CC=C1)Cl | C10H10ClNO4S
reactant | 2-chlorophenylisocyanate | ClC1=C(C=CC=C1)N=C=O | C7H4ClNO
reactant | sodium iodide | [I-].[Na+]
product | (S)-1-(2-chloro-benzenesulfonyl)-3-(2-chloro-phenyl)-2-oxo-imidazolidine-4-carboxylic acid methyl ester | COC(=O)[C@H]1N(C(N(C1)S(=O)(=O)C1=C(C=CC=C1)Cl)=O)C1=C(C=CC=C1)Cl | C17H14Cl2N2O5S
